* Z:\home\handiko\myLTspiceIV\Examples\Educational\Cohn.asc
L1 N001 N005 {L}
L2 N005 0 {Lm}
L3 N002 N005 {2*L}
L4 N002 N006 {2*L}
L5 N003 N006 {L}
L6 N006 0 {Lm}
C1 N001 IN {C1}
C2 IN 0 {C2}
C3 N003 OUT {C1}
C4 OUT 0 {C2}
C5 N002 0 {C3}
V1 N004 0 AC 2
R1 IN N004 {R}
R2 OUT 0 {R}
.ac oct 1000 10Meg 25Meg
.param x=.54 ; trimer postion
.param R=50
.param L=2.95u Lm=.27u C1=22p+x*25p C2=240p C3=34p
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
